US08211930B2
Tert-butyl (1R,2S)-1-(4H-benzo[d][1,3]dioxin-7-yl)-1-hydroxypropan-2-ylcarbamate (I3b)
A mixture (S)-tert-butyl 1-(4H-benzo[d][1,3]dioxin-7-yl)-1-oxopropan-2-ylcarbamate (I3c) (680 mg, 2.21 mmol), triisopropoxyaluminum (140 mg, 0.69 mmol) and propan-2-ol (3 mL, 38.9 mmol) in toluene (3 mL) was stirred at +65° C. for 15 hours. The reaction mixture was allowed to cool down and poured into 1M HCl (50 mL) and extracted with EtOAc (2×50 mL). The organic phase was washed with water, brine, dried over MgSO4, filtered and solvents removed by evaporation to afford a crude product as a colourless solid. The crude product was first purified by Flash chromatography, (solvent A=Heptane, solvent B=EtOAc+10% MeOH). An gradient of 10% B to 50% B in A was used. The obtained product was crystallised from DCM/Heptane to afford the subtitle compound colourless needles. Yield 414 mg (60%)

reactant | (S)-tert-butyl 1-(4H-benzo[d][1,3]dioxin-7-yl)-1-oxopropan-2-ylcarbamate | 2.21 mmol, 680 mg | O1COCC2=C1C=C(C=C2)C([C@H](C)NC(OC(C)(C)C)=O)=O | C16H21NO5
reactant | triisopropoxyaluminum | 0.69 mmol, 140 mg | C(C)(C)O[Al](OC(C)C)OC(C)C
reactant | propan-2-ol | 38.9 mmol, 3 mL | CC(C)O | C3H8O
reactant | HCl | 1M, 50 mL | Cl | ClH
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl (1R,2S)-1-(4H-benzo[d][1,3]dioxin-7-yl)-1-hydroxypropan-2-ylcarbamate | O1COCC2=C1C=C(C=C2)[C@H]([C@H](C)NC(OC(C)(C)C)=O)O | C16H23NO5
